US08193199B2
A mixture of 6-bromopurine (0.07844 g, 0.3942 mmol), (8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)methanamine (0.1075 g, 0.3942 mmol), and N,N-diisopropylethylamine (0.2060 mL, 1.182 mmol) in 1-butanol (3.942 mL, 0.3942 mmol) was stirred at 100° C. After 16 h, the mixture was removed from the heat. The precipitate was filtered and the solid was washed with MeOH to give an off-white solid and filtrate. The off-white solid was purified by column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 14 min and then 100% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) for 20 min as eluent to give an off-white solid. The off-white solid was suspended in MeOH and filtered to give N-((8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)methyl)-9H-purin-6-amine as a white solid. A suspension of in N-((8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)methyl)-9H-purin-6-amine (0.10596 g) in ethanol absolute (7 mL) was treated with hydrochloric acid volumetric standard, 0.5004 N solution in water (1.084 mL, 0.54322 mmol, 2 eqv.). The mixture was stirred at 95° C. oil bath for 5 min. After 5 min, the mixture became clear solution and cooled to room temperature. The cooed mixture was concentrated under reduced pressure to give a light yellow solid. The light yellow solid was dissolved in 3 mL of water, frozen, and dried on lyophilizer to give N-((8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)-methyl)-9H-purin-6-amine dihydrochloride as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.99 (1H, br. s.), 9.34 (1H, s), 8.66 (1H, s), 8.42-8.62 (2H, m), 8.37 (1H, s), 7.99-8.07 (2H, m), 7.67 (1H, t, J=8.0 Hz), 5.19 (2H, br. s.), 4.08 (3H, s); LC-MS (ESI) m/z 391.1 [M+H]+ (Exact Mass of neutral form: 390.111).

reactant | hydrochloric acid | Cl | ClH
reactant | N-((8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)methyl)-9H-purin-6-amine | 0.10596 g | ClC=1C=CC=C2C=C(C(=NC12)C1=CN=CN1C)CNC1=C2N=CNC2=NC=N1 | C19H15ClN8
solvent | ethanol absolute | 7 mL | CCO | C2H6O
solvent | water | 3 mL | O | H2O
solvent | water | 0.54322 mmol, 1.084 mL, 2 eqv. | O | H2O
product | N-((8-chloro-2-(1-methyl-1H-imidazol-5-yl)quinolin-3-yl)-methyl)-9H-purin-6-amine dihydrochloride | Cl.Cl.ClC=1C=CC=C2C=C(C(=NC12)C1=CN=CN1C)CNC1=C2N=CNC2=NC=N1 | InChI=1S/C19H15ClN8.2ClH/c1-28-10-21-7-14(28)16-12(5-11-3-2-4-13(20)15(11)27-16)6-22-18-17-19(24-8-23-17)26-9-25-18;;/h2-5,7-10H,6H2,1H3,(H2,22,23,24,25,26);2*1H
